US07199154B2
Step 1: (2Z)-4-({[(6-bromohexyl)oxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid
To a solution of 12 g of 6-bromohexyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate in 125 mL of dichloromethane was added 12.1 g of Dess-Martin reagent; the resulting mixture was stirred at 25° C. for 2 h. Then 1 mL of water was added and the mixture was stirred at RT for 30 min. The mixture was filtered through a pad of silica gel and evaporated. The crude thus obtained was dissolved in a solvent mixture of THF and t-BuOH (100 mL/100 mL). To this solution was added 16 mL of 2-methyl-2-butene followed by the addition of 40 mL of phosphoric acid (1.2M soln) and 40 mL of NaClO2 (1M soln). The resulting mixture was stirred at RT for 30 min. The organic phase was separated and the aqueous phase was extracted with EtOAc. The organic phases were combined, dried over Na2SO4, filtered, and then evaporated. The crude was purified by flash chromatography to afford titled compound as white solid.

reactant | 6-bromohexyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 12 g | C(OCCCCCCBr)(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C24H29BrO6S
reactant | Dess-Martin reagent | 12.1 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-methyl-2-butene | 16 mL | CC(C)=CC | C5H10
reactant | phosphoric acid | 1.2M, 40 mL | P(O)(O)(O)=O | H3O4P
reactant | NaClO2 | 1M, 40 mL | [O-]Cl=O.[Na+]
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | t-BuOH | 100 mL | CC(C)(C)O | C4H10O
solvent | water | 1 mL | O | H2O
product | (2Z)-4-({[(6-bromohexyl)oxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | BrCCCCCCOC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C24H27BrO7S
